US04528299
1-(2,3-Dimethyl-4-methoxyphenyl)-2-methyl-3-(1-pyrrolidinyl)-1-propanone hydrochloride
1-(2,3-Dimethyl-4-methoxyphenyl)-1-propanone (20.0 g), paraformaldehyde (6.2 g) and pyrrolidine (8.9 g) are combined in isopropanol (30 ml) and 35% ethanolic hydrogen chloride (16 ml) is added to adjust the solution to an acidic pH. The mixture is then stirred and heated at reflux for 20 hours. After cooling, acetone (300 ml) is added to the reaction mixture and the resulting solution is cooled in ice water. Crystalline product is filtered and recrystallized twice from ethanol (50 ml)-acetone (50 ml) to give the analytically pure title compound (10.0 g), m.p. 169°-172° C.

reactant | 1-(2,3-Dimethyl-4-methoxyphenyl)-1-propanone | 20.0 g | CC1=C(C=CC(=C1C)OC)C(CC)=O | C12H16O2
reactant | paraformaldehyde | 6.2 g | C=O | CH2O
reactant | pyrrolidine | 8.9 g | N1CCCC1 | C4H9N
reactant | hydrogen chloride | 16 ml | Cl | ClH
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 1-(2,3-Dimethyl-4-methoxyphenyl)-2-methyl-3-(1-pyrrolidinyl)-1-propanone hydrochloride | 10.0 g | Cl.CC1=C(C=CC(=C1C)OC)C(C(CN1CCCC1)C)=O | InChI=1S/C17H25NO2.ClH/c1-12(11-18-9-5-6-10-18)17(19)15-7-8-16(20-4)14(3)13(15)2;/h7-8,12H,5-6,9-11H2,1-4H3;1H
